* extracted by klt extract --deck sky130

* cell bandgap_core_routed
* pin D1
* pin D2
* pin GDRV
* pin PN
* pin TAIL
* pin VA
* pin VB
* pin VBQ
* pin VDD
* pin VOUT
* pin VSS
.SUBCKT bandgap_core_routed D1 D2 GDRV PN TAIL VA VB VBQ VDD VOUT VSS
* device instance $1 r0 *1 233.14,52.67 nfet
M$1 VSS D1 D1 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $2 r0 *1 254.38,52.67 nfet
M$2 VSS D2 D2 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $3 r0 *1 275.62,52.67 nfet
M$3 VSS D1 D1 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $4 r0 *1 296.86,52.67 nfet
M$4 VSS D2 D2 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $5 r0 *1 233.14,61.49 nfet
M$5 VSS D2 D2 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $6 r0 *1 254.38,61.49 nfet
M$6 VSS D1 D1 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $7 r0 *1 275.62,61.49 nfet
M$7 VSS D2 D2 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $8 r0 *1 296.86,61.49 nfet
M$8 VSS D1 D1 VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $9 r0 *1 216.07,105.9 nfet
M$9 VSS D2 PN VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $10 r0 *1 237.31,105.9 nfet
M$10 VSS D1 GDRV VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $11 r0 *1 258.55,105.9 nfet
M$11 VSS D2 PN VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $12 r0 *1 279.79,105.9 nfet
M$12 VSS D1 GDRV VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $13 r0 *1 216.07,114.72 nfet
M$13 VSS D1 GDRV VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $14 r0 *1 237.31,114.72 nfet
M$14 VSS D2 PN VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $15 r0 *1 258.55,114.72 nfet
M$15 VSS D1 GDRV VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $16 r0 *1 279.79,114.72 nfet
M$16 VSS D2 PN VSS nfet L=20U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $17 r0 *1 30.71,46.67 pfet
M$17 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $18 r0 *1 41.95,46.67 pfet
M$18 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $19 r0 *1 53.19,46.67 pfet
M$19 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $20 r0 *1 64.43,46.67 pfet
M$20 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $21 r0 *1 75.67,46.67 pfet
M$21 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $22 r0 *1 86.91,46.67 pfet
M$22 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $23 r0 *1 98.15,46.67 pfet
M$23 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $24 r0 *1 109.39,46.67 pfet
M$24 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $25 r0 *1 120.63,46.67 pfet
M$25 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $26 r0 *1 131.87,46.67 pfet
M$26 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $27 r0 *1 143.11,46.67 pfet
M$27 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $28 r0 *1 154.35,46.67 pfet
M$28 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $29 r0 *1 165.59,46.67 pfet
M$29 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $30 r0 *1 176.83,46.67 pfet
M$30 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $31 r0 *1 188.07,46.67 pfet
M$31 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $32 r0 *1 199.31,46.67 pfet
M$32 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $33 r0 *1 2.49,52.67 pfet
M$33 VOUT GDRV VDD VDD pfet L=2U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $34 r0 *1 2.49,61.49 pfet
M$34 TAIL GDRV VDD VDD pfet L=2U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $35 r0 *1 5.73,52.67 pfet
M$35 TAIL GDRV VDD VDD pfet L=2U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $36 r0 *1 5.73,61.49 pfet
M$36 VOUT GDRV VDD VDD pfet L=2U W=8U AS=3.36P AD=3.36P PS=16.84U PD=16.84U
* device instance $37 r0 *1 30.71,67.49 pfet
M$37 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $38 r0 *1 41.95,67.49 pfet
M$38 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $39 r0 *1 53.19,67.49 pfet
M$39 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $40 r0 *1 64.43,67.49 pfet
M$40 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $41 r0 *1 75.67,67.49 pfet
M$41 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $42 r0 *1 86.91,67.49 pfet
M$42 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $43 r0 *1 98.15,67.49 pfet
M$43 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $44 r0 *1 109.39,67.49 pfet
M$44 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $45 r0 *1 120.63,67.49 pfet
M$45 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $46 r0 *1 131.87,67.49 pfet
M$46 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $47 r0 *1 143.11,67.49 pfet
M$47 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $48 r0 *1 154.35,67.49 pfet
M$48 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $49 r0 *1 165.59,67.49 pfet
M$49 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $50 r0 *1 176.83,67.49 pfet
M$50 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $51 r0 *1 188.07,67.49 pfet
M$51 D1 VB TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $52 r0 *1 199.31,67.49 pfet
M$52 D2 VA TAIL VDD pfet L=10U W=20U AS=8.4P AD=8.4P PS=40.84U PD=40.84U
* device instance $53 r0 *1 28.56,106.9 pfet
M$53 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $54 r0 *1 28.56,113.72 pfet
M$54 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $55 r0 *1 49.8,106.9 pfet
M$55 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $56 r0 *1 49.8,113.72 pfet
M$56 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $57 r0 *1 71.04,113.72 pfet
M$57 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $58 r0 *1 71.04,106.9 pfet
M$58 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $59 r0 *1 92.28,113.72 pfet
M$59 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $60 r0 *1 92.28,106.9 pfet
M$60 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $61 r0 *1 113.52,106.9 pfet
M$61 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $62 r0 *1 113.52,113.72 pfet
M$62 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $63 r0 *1 134.76,106.9 pfet
M$63 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $64 r0 *1 134.76,113.72 pfet
M$64 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $65 r0 *1 156,113.72 pfet
M$65 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $66 r0 *1 156,106.9 pfet
M$66 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $67 r0 *1 177.24,113.72 pfet
M$67 PN PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $68 r0 *1 177.24,106.9 pfet
M$68 GDRV PN VDD VDD pfet L=20U W=6U AS=2.52P AD=2.52P PS=12.84U PD=12.84U
* device instance $69 r0 *1 18.01,1.31 pnp
Q$69 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $70 r0 *1 19.91,1.31 pnp
Q$70 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $71 r0 *1 21.81,1.31 pnp
Q$71 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $72 r0 *1 23.71,1.31 pnp
Q$72 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $73 r0 *1 18.01,2.39 pnp
Q$73 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $74 r0 *1 19.91,2.39 pnp
Q$74 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $75 r0 *1 21.81,2.39 pnp
Q$75 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $76 r0 *1 23.71,2.39 pnp
Q$76 VSS VSS VA pnp AE=0.4624P PE=2.72U AB=0.7744P PB=3.52U AC=0.7744P PC=3.52U
+ NE=1
* device instance $77 r0 *1 271.43,2.67 pnp
Q$77 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $78 r0 *1 276.05,2.67 pnp
Q$78 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $79 r0 *1 280.67,2.67 pnp
Q$79 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $80 r0 *1 285.29,2.67 pnp
Q$80 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $81 r0 *1 271.43,6.47 pnp
Q$81 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $82 r0 *1 276.05,6.47 pnp
Q$82 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $83 r0 *1 280.67,6.47 pnp
Q$83 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $84 r0 *1 285.29,6.47 pnp
Q$84 VSS VSS VBQ pnp AE=11.56P PE=13.6U AB=12.96P PB=14.4U AC=12.96P PC=14.4U
+ NE=1
* device instance $85 r0 *1 59.34,0.5 res_high_po
R$85 VOUT \$6 VSS 2003.841367 res_high_po
* device instance $86 r0 *1 65.68,0.5 res_high_po
R$86 VOUT \$7 VSS 2003.841367 res_high_po
* device instance $87 r0 *1 72.02,0.5 res_high_po
R$87 \$6 \$8 VSS 2003.841367 res_high_po
* device instance $88 r0 *1 78.36,0.5 res_high_po
R$88 \$7 \$9 VSS 2003.841367 res_high_po
* device instance $89 r0 *1 84.7,0.5 res_high_po
R$89 \$8 \$10 VSS 2003.841367 res_high_po
* device instance $90 r0 *1 91.04,0.5 res_high_po
R$90 \$9 \$11 VSS 2003.841367 res_high_po
* device instance $91 r0 *1 97.38,0.5 res_high_po
R$91 \$10 \$12 VSS 2003.841367 res_high_po
* device instance $92 r0 *1 103.72,0.5 res_high_po
R$92 \$11 \$13 VSS 2003.841367 res_high_po
* device instance $93 r0 *1 110.06,0.5 res_high_po
R$93 \$12 \$14 VSS 2003.841367 res_high_po
* device instance $94 r0 *1 116.4,0.5 res_high_po
R$94 \$13 \$15 VSS 2003.841367 res_high_po
* device instance $95 r0 *1 59.34,1.9 res_high_po
R$95 \$21 \$22 VSS 2003.841367 res_high_po
* device instance $96 r0 *1 59.34,3.3 res_high_po
R$96 \$20 \$35 VSS 2003.841367 res_high_po
* device instance $97 r0 *1 65.68,3.3 res_high_po
R$97 \$21 \$36 VSS 2003.841367 res_high_po
* device instance $98 r0 *1 65.68,1.9 res_high_po
R$98 \$20 \$23 VSS 2003.841367 res_high_po
* device instance $99 r0 *1 72.02,1.9 res_high_po
R$99 \$22 \$24 VSS 2003.841367 res_high_po
* device instance $100 r0 *1 72.02,3.3 res_high_po
R$100 \$35 \$37 VSS 2003.841367 res_high_po
* device instance $101 r0 *1 78.36,1.9 res_high_po
R$101 \$23 \$25 VSS 2003.841367 res_high_po
* device instance $102 r0 *1 78.36,3.3 res_high_po
R$102 \$36 \$38 VSS 2003.841367 res_high_po
* device instance $103 r0 *1 84.7,1.9 res_high_po
R$103 \$24 \$26 VSS 2003.841367 res_high_po
* device instance $104 r0 *1 84.7,3.3 res_high_po
R$104 \$37 \$39 VSS 2003.841367 res_high_po
* device instance $105 r0 *1 91.04,3.3 res_high_po
R$105 \$38 \$40 VSS 2003.841367 res_high_po
* device instance $106 r0 *1 91.04,1.9 res_high_po
R$106 \$25 \$27 VSS 2003.841367 res_high_po
* device instance $107 r0 *1 97.38,1.9 res_high_po
R$107 \$26 \$28 VSS 2003.841367 res_high_po
* device instance $108 r0 *1 97.38,3.3 res_high_po
R$108 \$39 \$41 VSS 2003.841367 res_high_po
* device instance $109 r0 *1 103.72,1.9 res_high_po
R$109 \$27 \$29 VSS 2003.841367 res_high_po
* device instance $110 r0 *1 103.72,3.3 res_high_po
R$110 \$40 \$42 VSS 2003.841367 res_high_po
* device instance $111 r0 *1 110.06,3.3 res_high_po
R$111 \$41 \$43 VSS 2003.841367 res_high_po
* device instance $112 r0 *1 110.06,1.9 res_high_po
R$112 \$28 \$15 VSS 2003.841367 res_high_po
* device instance $113 r0 *1 116.4,1.9 res_high_po
R$113 \$29 \$14 VSS 2003.841367 res_high_po
* device instance $114 r0 *1 116.4,3.3 res_high_po
R$114 \$42 \$44 VSS 2003.841367 res_high_po
* device instance $115 r0 *1 59.34,4.7 res_high_po
R$115 \$46 \$47 VSS 2003.841367 res_high_po
* device instance $116 r0 *1 65.68,4.7 res_high_po
R$116 \$45 \$48 VSS 2003.841367 res_high_po
* device instance $117 r0 *1 72.02,4.7 res_high_po
R$117 \$47 \$49 VSS 2003.841367 res_high_po
* device instance $118 r0 *1 78.36,4.7 res_high_po
R$118 \$48 \$50 VSS 2003.841367 res_high_po
* device instance $119 r0 *1 84.7,4.7 res_high_po
R$119 \$49 \$51 VSS 2003.841367 res_high_po
* device instance $120 r0 *1 91.04,4.7 res_high_po
R$120 \$50 \$52 VSS 2003.841367 res_high_po
* device instance $121 r0 *1 97.38,4.7 res_high_po
R$121 \$51 \$53 VSS 2003.841367 res_high_po
* device instance $122 r0 *1 103.72,4.7 res_high_po
R$122 \$52 \$54 VSS 2003.841367 res_high_po
* device instance $123 r0 *1 110.06,4.7 res_high_po
R$123 \$53 \$44 VSS 2003.841367 res_high_po
* device instance $124 r0 *1 116.4,4.7 res_high_po
R$124 \$54 \$43 VSS 2003.841367 res_high_po
* device instance $125 r0 *1 59.34,6.1 res_high_po
R$125 \$45 \$55 VSS 2003.841367 res_high_po
* device instance $126 r0 *1 65.68,6.1 res_high_po
R$126 \$46 \$56 VSS 2003.841367 res_high_po
* device instance $127 r0 *1 72.02,6.1 res_high_po
R$127 \$55 \$57 VSS 2003.841367 res_high_po
* device instance $128 r0 *1 78.36,6.1 res_high_po
R$128 \$56 \$58 VSS 2003.841367 res_high_po
* device instance $129 r0 *1 84.7,6.1 res_high_po
R$129 \$57 \$59 VSS 2003.841367 res_high_po
* device instance $130 r0 *1 91.04,6.1 res_high_po
R$130 \$58 \$60 VSS 2003.841367 res_high_po
* device instance $131 r0 *1 97.38,6.1 res_high_po
R$131 \$59 \$61 VSS 2003.841367 res_high_po
* device instance $132 r0 *1 103.72,6.1 res_high_po
R$132 \$60 \$62 VSS 2003.841367 res_high_po
* device instance $133 r0 *1 110.06,6.1 res_high_po
R$133 \$61 \$63 VSS 2003.841367 res_high_po
* device instance $134 r0 *1 116.4,6.1 res_high_po
R$134 \$62 \$64 VSS 2003.841367 res_high_po
* device instance $135 r0 *1 59.34,7.5 res_high_po
R$135 \$66 \$67 VSS 2003.841367 res_high_po
* device instance $136 r0 *1 65.68,7.5 res_high_po
R$136 \$65 \$68 VSS 2003.841367 res_high_po
* device instance $137 r0 *1 72.02,7.5 res_high_po
R$137 \$67 \$69 VSS 2003.841367 res_high_po
* device instance $138 r0 *1 78.36,7.5 res_high_po
R$138 \$68 \$70 VSS 2003.841367 res_high_po
* device instance $139 r0 *1 84.7,7.5 res_high_po
R$139 \$69 \$71 VSS 2003.841367 res_high_po
* device instance $140 r0 *1 91.04,7.5 res_high_po
R$140 \$70 \$72 VSS 2003.841367 res_high_po
* device instance $141 r0 *1 97.38,7.5 res_high_po
R$141 \$71 \$73 VSS 2003.841367 res_high_po
* device instance $142 r0 *1 103.72,7.5 res_high_po
R$142 \$72 \$74 VSS 2003.841367 res_high_po
* device instance $143 r0 *1 110.06,7.5 res_high_po
R$143 \$73 \$64 VSS 2003.841367 res_high_po
* device instance $144 r0 *1 116.4,7.5 res_high_po
R$144 \$74 \$63 VSS 2003.841367 res_high_po
* device instance $145 r0 *1 59.34,8.9 res_high_po
R$145 \$65 \$78 VSS 2003.841367 res_high_po
* device instance $146 r0 *1 65.68,8.9 res_high_po
R$146 \$66 \$79 VSS 2003.841367 res_high_po
* device instance $147 r0 *1 72.02,8.9 res_high_po
R$147 \$78 \$80 VSS 2003.841367 res_high_po
* device instance $148 r0 *1 78.36,8.9 res_high_po
R$148 \$79 \$81 VSS 2003.841367 res_high_po
* device instance $149 r0 *1 84.7,8.9 res_high_po
R$149 \$80 \$82 VSS 2003.841367 res_high_po
* device instance $150 r0 *1 91.04,8.9 res_high_po
R$150 \$81 \$83 VSS 2003.841367 res_high_po
* device instance $151 r0 *1 97.38,8.9 res_high_po
R$151 \$82 \$84 VSS 2003.841367 res_high_po
* device instance $152 r0 *1 103.72,8.9 res_high_po
R$152 \$83 \$85 VSS 2003.841367 res_high_po
* device instance $153 r0 *1 110.06,8.9 res_high_po
R$153 \$84 \$86 VSS 2003.841367 res_high_po
* device instance $154 r0 *1 116.4,8.9 res_high_po
R$154 \$85 \$87 VSS 2003.841367 res_high_po
* device instance $155 r0 *1 140.92,8.9 res_high_po
R$155 \$77 \$91 VSS 704.532391 res_high_po
* device instance $156 r0 *1 143.26,8.9 res_high_po
R$156 \$88 \$92 VSS 704.532391 res_high_po
* device instance $157 r0 *1 145.6,8.9 res_high_po
R$157 \$91 \$93 VSS 704.532391 res_high_po
* device instance $158 r0 *1 147.94,8.9 res_high_po
R$158 \$92 \$94 VSS 704.532391 res_high_po
* device instance $159 r0 *1 150.28,8.9 res_high_po
R$159 \$93 \$95 VSS 704.532391 res_high_po
* device instance $160 r0 *1 152.62,8.9 res_high_po
R$160 \$94 \$96 VSS 704.532391 res_high_po
* device instance $161 r0 *1 154.96,8.9 res_high_po
R$161 \$95 \$97 VSS 704.532391 res_high_po
* device instance $162 r0 *1 157.3,8.9 res_high_po
R$162 \$96 \$98 VSS 704.532391 res_high_po
* device instance $163 r0 *1 159.64,8.9 res_high_po
R$163 \$97 \$99 VSS 704.532391 res_high_po
* device instance $164 r0 *1 161.98,8.9 res_high_po
R$164 \$98 \$100 VSS 704.532391 res_high_po
* device instance $165 r0 *1 59.34,10.3 res_high_po
R$165 \$102 \$103 VSS 2003.841367 res_high_po
* device instance $166 r0 *1 59.34,11.7 res_high_po
R$166 \$101 \$121 VSS 2003.841367 res_high_po
* device instance $167 r0 *1 65.68,11.7 res_high_po
R$167 \$102 \$122 VSS 2003.841367 res_high_po
* device instance $168 r0 *1 65.68,10.3 res_high_po
R$168 \$101 \$104 VSS 2003.841367 res_high_po
* device instance $169 r0 *1 72.02,11.7 res_high_po
R$169 \$121 \$123 VSS 2003.841367 res_high_po
* device instance $170 r0 *1 72.02,10.3 res_high_po
R$170 \$103 \$105 VSS 2003.841367 res_high_po
* device instance $171 r0 *1 78.36,10.3 res_high_po
R$171 \$104 \$106 VSS 2003.841367 res_high_po
* device instance $172 r0 *1 78.36,11.7 res_high_po
R$172 \$122 \$124 VSS 2003.841367 res_high_po
* device instance $173 r0 *1 84.7,11.7 res_high_po
R$173 \$123 \$125 VSS 2003.841367 res_high_po
* device instance $174 r0 *1 84.7,10.3 res_high_po
R$174 \$105 \$107 VSS 2003.841367 res_high_po
* device instance $175 r0 *1 91.04,10.3 res_high_po
R$175 \$106 \$108 VSS 2003.841367 res_high_po
* device instance $176 r0 *1 91.04,11.7 res_high_po
R$176 \$124 \$126 VSS 2003.841367 res_high_po
* device instance $177 r0 *1 97.38,11.7 res_high_po
R$177 \$125 \$127 VSS 2003.841367 res_high_po
* device instance $178 r0 *1 97.38,10.3 res_high_po
R$178 \$107 \$109 VSS 2003.841367 res_high_po
* device instance $179 r0 *1 103.72,11.7 res_high_po
R$179 \$126 \$128 VSS 2003.841367 res_high_po
* device instance $180 r0 *1 103.72,10.3 res_high_po
R$180 \$108 \$110 VSS 2003.841367 res_high_po
* device instance $181 r0 *1 110.06,10.3 res_high_po
R$181 \$109 \$87 VSS 2003.841367 res_high_po
* device instance $182 r0 *1 110.06,11.7 res_high_po
R$182 \$127 \$129 VSS 2003.841367 res_high_po
* device instance $183 r0 *1 116.4,10.3 res_high_po
R$183 \$110 \$86 VSS 2003.841367 res_high_po
* device instance $184 r0 *1 116.4,11.7 res_high_po
R$184 \$128 \$130 VSS 2003.841367 res_high_po
* device instance $185 r0 *1 140.92,10.3 res_high_po
R$185 \$112 \$113 VSS 704.532391 res_high_po
* device instance $186 r0 *1 140.92,11.7 res_high_po
R$186 \$111 \$131 VSS 704.532391 res_high_po
* device instance $187 r0 *1 143.26,11.7 res_high_po
R$187 \$112 \$132 VSS 704.532391 res_high_po
* device instance $188 r0 *1 143.26,10.3 res_high_po
R$188 \$111 \$114 VSS 704.532391 res_high_po
* device instance $189 r0 *1 145.6,11.7 res_high_po
R$189 \$131 \$133 VSS 704.532391 res_high_po
* device instance $190 r0 *1 145.6,10.3 res_high_po
R$190 \$113 \$115 VSS 704.532391 res_high_po
* device instance $191 r0 *1 147.94,11.7 res_high_po
R$191 \$132 \$134 VSS 704.532391 res_high_po
* device instance $192 r0 *1 147.94,10.3 res_high_po
R$192 \$114 \$116 VSS 704.532391 res_high_po
* device instance $193 r0 *1 150.28,10.3 res_high_po
R$193 \$115 \$117 VSS 704.532391 res_high_po
* device instance $194 r0 *1 150.28,11.7 res_high_po
R$194 \$133 \$135 VSS 704.532391 res_high_po
* device instance $195 r0 *1 152.62,11.7 res_high_po
R$195 \$134 \$136 VSS 704.532391 res_high_po
* device instance $196 r0 *1 152.62,10.3 res_high_po
R$196 \$116 \$118 VSS 704.532391 res_high_po
* device instance $197 r0 *1 154.96,11.7 res_high_po
R$197 \$135 \$137 VSS 704.532391 res_high_po
* device instance $198 r0 *1 154.96,10.3 res_high_po
R$198 \$117 \$119 VSS 704.532391 res_high_po
* device instance $199 r0 *1 157.3,11.7 res_high_po
R$199 \$136 \$138 VSS 704.532391 res_high_po
* device instance $200 r0 *1 157.3,10.3 res_high_po
R$200 \$118 \$120 VSS 704.532391 res_high_po
* device instance $201 r0 *1 159.64,11.7 res_high_po
R$201 \$137 \$139 VSS 704.532391 res_high_po
* device instance $202 r0 *1 159.64,10.3 res_high_po
R$202 \$119 \$100 VSS 704.532391 res_high_po
* device instance $203 r0 *1 161.98,10.3 res_high_po
R$203 \$120 \$99 VSS 704.532391 res_high_po
* device instance $204 r0 *1 161.98,11.7 res_high_po
R$204 \$138 \$140 VSS 704.532391 res_high_po
* device instance $205 r0 *1 110.06,13.1 res_high_po
R$205 \$88 \$130 VSS 2003.841367 res_high_po
* device instance $206 r0 *1 116.4,13.1 res_high_po
R$206 \$77 \$129 VSS 2003.841367 res_high_po
* device instance $207 r0 *1 140.92,13.1 res_high_po
R$207 VB \$145 VSS 704.532391 res_high_po
* device instance $208 r0 *1 143.26,13.1 res_high_po
R$208 VA \$146 VSS 704.532391 res_high_po
* device instance $209 r0 *1 145.6,13.1 res_high_po
R$209 \$145 \$147 VSS 704.532391 res_high_po
* device instance $210 r0 *1 147.94,13.1 res_high_po
R$210 \$146 \$148 VSS 704.532391 res_high_po
* device instance $211 r0 *1 150.28,13.1 res_high_po
R$211 \$147 \$149 VSS 704.532391 res_high_po
* device instance $212 r0 *1 152.62,13.1 res_high_po
R$212 \$148 \$150 VSS 704.532391 res_high_po
* device instance $213 r0 *1 154.96,13.1 res_high_po
R$213 \$149 \$151 VSS 704.532391 res_high_po
* device instance $214 r0 *1 157.3,13.1 res_high_po
R$214 \$150 \$152 VSS 704.532391 res_high_po
* device instance $215 r0 *1 159.64,13.1 res_high_po
R$215 \$151 \$140 VSS 704.532391 res_high_po
* device instance $216 r0 *1 161.98,13.1 res_high_po
R$216 \$152 \$139 VSS 704.532391 res_high_po
* device instance $217 r0 *1 194.5,13.1 res_high_po
R$217 VB \$155 VSS 2003.841367 res_high_po
* device instance $218 r0 *1 200.84,13.1 res_high_po
R$218 \$155 \$156 VSS 2003.841367 res_high_po
* device instance $219 r0 *1 207.18,13.1 res_high_po
R$219 \$156 \$157 VSS 2003.841367 res_high_po
* device instance $220 r0 *1 213.52,13.1 res_high_po
R$220 \$157 \$158 VSS 2003.841367 res_high_po
* device instance $221 r0 *1 219.86,13.1 res_high_po
R$221 \$158 \$159 VSS 2003.841367 res_high_po
* device instance $222 r0 *1 226.2,13.1 res_high_po
R$222 \$159 \$160 VSS 2003.841367 res_high_po
* device instance $223 r0 *1 232.54,13.1 res_high_po
R$223 \$160 VBQ VSS 2003.841367 res_high_po
.ENDS bandgap_core_routed
